US06476029B1
2-[2-Ethoxy-5-(4-methylpiperazine-1-sulphonyl)-phenyl]-7-(1-ethylpropyl)-5-methyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one
50 mg (0.114 mmol) of 4-ethoxy-3-(5-methyl-4-oxo-7-(1-ethylpropyl)-3,4-dihydroimidazo[5,1-f][1,2,4]triazin-2-yl)-benzenesulphonyl chloride are initially charged in 5 ml of dichloromethane and a spatula tip of 4 dimethylaminopyridine is added, followed by 30 mg (0.342 mmol) of N-methylpiperazine. The mixture is stirred at room temperature overnight, diluted with dichloromethane, washed twice with saturated ammonium chloride solution, dried over sodium sulphate, concentrated and filtered through silica gel (methanol).

reactant | 4-ethoxy-3-(5-methyl-4-oxo-7-(1-ethylpropyl)-3,4-dihydroimidazo[5,1-f][1,2,4]triazin-2-yl)-benzenesulphonyl chloride | 0.114 mmol, 50 mg | C(C)OC1=C(C=C(C=C1)S(=O)(=O)Cl)C1=NN2C(C(N1)=O)=C(N=C2C(CC)CC)C | C19H23ClN4O4S
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | N-methylpiperazine | 0.342 mmol, 30 mg | CN1CCNCC1 | C5H12N2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-[2-Ethoxy-5-(4-methylpiperazine-1-sulphonyl)-phenyl]-7-(1-ethylpropyl)-5-methyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one | C(C)OC1=C(C=C(C=C1)S(=O)(=O)N1CCN(CC1)C)C1=NN2C(C(N1)=O)=C(N=C2C(CC)CC)C | C24H34N6O4S
